US05512537
Preparation of N-benzyl-2-(3'-methylbenzoyl)pyrrole (Compound 15 herein)
In a flask were placed 3.0 ml (22.9 mmol) 3-methylbenzoyl chloride and 50 ml methylene chloride. Then 22.9 ml (1.0M in CH2Cl2, 22.9 mmol) stannic chloride was added dropwise. The contents of the flask were mixed for 5 minutes, then 3.6 g (22.9 mmol) N-benzylpyrrole in 10 ml methylene chloride was added dropwise. The reaction mixture was stirred overnight, then quenched with water, washed with brine, dried and condensed to yield an oil. The oil was purified by flash chromatography with ethyl acetate/hexanes/silica gel, yielding two fractions. These were analyzed spectroscopically; one was found to be the desired 2-benzoyl compound, the other the corresponding 3-benzoyl compound.

reactant | 3-methylbenzoyl chloride | 22.9 mmol, 3.0 ml | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
reactant | N-benzylpyrrole | 22.9 mmol, 3.6 g | C(C1=CC=CC=C1)N1C=CC=C1 | C11H11N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-(3'-methylbenzoyl)pyrrole | C(C1=CC=CC=C1)N1C(=CC=C1)C(C1=CC(=CC=C1)C)=O | C19H17NO
